US08981085B2
tert-Butyl (R)-1-(5-bromo-3-((S)-2-hydroxypropanamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (0.120 g, 0.249 mmol) was placed in DCM (3 mL) at room temperature. TFA (1 mL) was then added. The reaction was stirred at room temperature for 1 hour and concentrated to dryness. The resulting residue was then purified by reverse phase chromatography (Biotage SP4, C-18 25M+, 5-50 CH3CN/water). The resulting product was next dissolved in minimal DCM (with MeOH to aid solubility) and added to a stirred solution of 1M HCl in ether. The resulting solid was filtered, washed with ether and dried to give (S)—N-(4-((R)-3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-hydroxypropanamide HCl (0.070 g, 62% yield) as a solid. 1H NMR (400 MHz, D2O) δ 8.20 (s, 1H), 7.48 (s, 1H), 4.37-4.32 (q, 1H), 3.61-3.55 (m, 2H), 3.31-3.24 (m, 2H), 3.16-3.13 (m, 1H), 2.09-2.05 (m, 1H), 1.77-1.71 (m, 2H), 1.54-1.51 (m, 1H), 1.35-1.33 (d, 3H). LCMS (APCI+) m/z 382, 384 (M+H)+.

reactant | tert-Butyl (R)-1-(5-bromo-3-((S)-2-hydroxypropanamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.249 mmol, 0.120 g | BrC=1C(=C2C(=NC1)NC=C2NC([C@H](C)O)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C20H28BrN5O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)—N-(4-((R)-3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-hydroxypropanamide HCl | 0.070 g, 62% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC([C@H](C)O)=O | InChI=1S/C15H20BrN5O2.ClH/c1-8(22)15(23)20-11-6-19-14-12(11)13(10(16)5-18-14)21-4-2-3-9(17)7-21;/h5-6,8-9,22H,2-4,7,17H2,1H3,(H,18,19)(H,20,23);1H/t8-,9+;/m0./s1
